US07138529B2
To a stirred solution of 2-Amino-3-cyano-4,7-dihydro-5H-thieno[2,3-c]pyran (400 mg; 2.22 mmol) and triethylamine (0.93 mL; 6.66 mmol) in dry methylene chloride (10 mL) under nitrogen at room temperature was added diphenylacetyl chloride (768 mg; 3.33 mmol). After 72 h, the mixture was diluted with methylene chloride and washed with 1N HCl. The organic layer was dried over sodium sulfate, filtered and concentrated in vacuo. The crude product was triturated with cold diethyl ether and filtered to give 310 mg (37%) of N-(3-Cyano-4,7-dihydro-5H-thieno[2,3-c]pyran-2-yl)-2,2-diphenyl-acetamide as a white solid. ES-HRMS m/e calcd for C22H18N2O2S (M+H+) 375.1162, found 375.1165.

reactant | 2-Amino-3-cyano-4,7-dihydro-5H-thieno[2,3-c]pyran | 2.22 mmol, 400 mg | NC1=C(C2=C(COCC2)S1)C#N | C8H8N2OS
reactant | triethylamine | 6.66 mmol, 0.93 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylacetyl chloride | 3.33 mmol, 768 mg | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(3-Cyano-4,7-dihydro-5H-thieno[2,3-c]pyran-2-yl)-2,2-diphenyl-acetamide | 310 mg, 37% | C(#N)C1=C(SC=2COCCC21)NC(C(C2=CC=CC=C2)C2=CC=CC=C2)=O | C22H18N2O2S
